US07544697B2
2-Aminophenylboronic acid hydrochloride (1.88 g, 10.8 mmol), potassium phosphate (6.9 g, 32 mmol), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (186 mg, 0.18 mmol), and bis[(2-diphenylphosphino)phenyl]ether (116 mg, 0.217 mmol) were added to a solution of 4-bromo-5-(4-chlorobutyl)-1-ethyl-1H-pyrazole-3-carbonitrile (2.1 g, 7.2 mmol) in toluene (45 mL). Nitrogen was bubbled through the reaction mixture, and then the reaction was heated at 110° C. for 48 hours. The mixture was filtered through a layer of silica gel (eluting with 3:2 chloroform/methanol). The filtrate was concentrated under reduced pressure and dissolved in ethanol (36 mL). Hydrogen chloride (5.4 mL of a 4 M solution in ethanol) was added to the resulting solution, and the reaction was heated at reflux for two hours and allowed to cool to ambient temperature. The solvent was removed under reduced pressure, and the residue was adjusted to pH 11 with the addition of 2 M aqueous sodium carbonate. The mixture was diluted with brine and extracted with chloroform. The combined extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by chromatography on a HORIZON HPFC system (40+M cartridge, eluting with chloroform/CMA in a gradient from 100:0 to 70:30). The resulting dark semi-solid was recrystallized from acetonitrile to provide 175 mg of 1-(4-chlorobutyl)-2-ethyl-2H-pyrazolo[3,4-c]quinolin-4-amine as a tan solid.

reactant | 2-Aminophenylboronic acid hydrochloride | 10.8 mmol, 1.88 g | Cl.NC1=C(C=CC=C1)B(O)O
reactant | potassium phosphate | 32 mmol, 6.9 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4-bromo-5-(4-chlorobutyl)-1-ethyl-1H-pyrazole-3-carbonitrile | 7.2 mmol, 2.1 g | BrC=1C(=NN(C1CCCCCl)CC)C#N | C10H13BrClN3
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.18 mmol, 186 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | 1-(4-chlorobutyl)-2-ethyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 175 mg | ClCCCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CC | C16H19ClN4
